US07829560B2
Ethyl-4-{[4-({4-[(3-fluoro-5-piperidin-1-ylbenzoyl)amino]-1-naphthyl}oxy)pyrimidin-2-yl]amino}piperidine-1-carboxylate (Compound B401).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and 4-amino-piperidine-1-carboxylic acid ethyl ester according to conditions described in general procedure C. 1H NMR (400 MHz, DMSO-d6) δ 1.05-1.19 (m, 5 H), 1.43-1.70 (m, 8 H), 2.79 (s, 2 H), 3.23-3.28 (m, 4 H), 3.70-3.98 (m, 5 H), 6.16-6.34 (bd, 1 H), 6.95 (d, J=12.4 Hz, 1 H), 7.10-7.20 (m, 2 H), 7.38 (d, J=8.0 Hz, 1 H), 7.42 (s, 1 H), 7.53-7.60 (m, 3 H), 7.79 (d, J=7.7 Hz, 1 H), 7.96 (d, J=8.0 Hz, 1 H), 8.21 (s, 1 H), 10.40 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | 4-amino-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)N | C8H16N2O2
product | Ethyl-4-{[4-({4-[(3-fluoro-5-piperidin-1-ylbenzoyl)amino]-1-naphthyl}oxy)pyrimidin-2-yl]amino}piperidine-1-carboxylate | C(C)OC(=O)N1CCC(CC1)NC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C34H37FN6O4
